US07576094B2
To a solution of 5-ethyl-7-isopropyl-4-oxospiro[chroman-2,1′-cyclobutane]-6-yl acetate (53 mg) in 5 mL of THF was added LiAlH4 (65 mg) in 3 portions at room temperature. The mixture was stirred for 2 h and quenched by pouring onto ice. The mixture was extracted with EtOAc (3×10 mL) and the organic extract was dried over Na2SO4 and concentrated. The crude product was purified by chromatography to afford 5-ethyl-7-isopropylspiro[chroman-2,1′-cyclobutane]-4,6-diol as an off-white solid (29 mg, 63%).

reactant | 5-ethyl-7-isopropyl-4-oxospiro[chroman-2,1′-cyclobutane]-6-yl acetate | 53 mg | C(C)(=O)OC=1C(=C2C(CC3(CCC3)OC2=CC1C(C)C)=O)CC | C19H24O4
reactant | LiAlH4 | 65 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-ethyl-7-isopropylspiro[chroman-2,1′-cyclobutane]-4,6-diol | 29 mg, 63% | C(C)C1=C2C(CC3(CCC3)OC2=CC(=C1O)C(C)C)O | C17H24O3
